US07470699B2
Preparation of 4-(4-Bromo-2-fluoro-phenoxy)-6-[1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yloxy]-5-methyl-pyrimidine (Compound C40)
A mixture of 4-chloro-6-[1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yloxy]-5-methyl-pyrimidine (1.51 g, 4.46 mmol), potassium carbonate (1.25 g, 9.03 mmol), and 4-bromo-2-fluorophenol (1.11 g, 5.82 mmol) in 15 mL DMF was heated in microwave for 1 hour at 150° C. The mixture was purified by column chromatography on silica gel with hexane/ethyl acetate (3:1 v/v) to give Compound C40 as an oil (1.05 g, 48%). 1H NMR (CDCl3, 400 MHz) δ 1.20-1.22 (d, 6H), 1.83-1.91 (m, 2H), 1.98-2.05 (m, 2H), 2.11 (s, 3H), 2.77-2.87 (m, 1H), 3.53-3.59 (m, 2H), 3.74-3.80 (m, 2H), 5.31-5.36 (m, 1H), 6.99-7.03 (m, 1H), 7.22-7.29 (m, 2H), 8.13 (s, 1H). Exact mass calculated for C21H23BrFN5O3 491.1, found 492.4 (MH+).

reactant | 4-chloro-6-[1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yloxy]-5-methyl-pyrimidine | 4.46 mmol, 1.51 g | ClC1=NC=NC(=C1C)OC1CCN(CC1)C1=NC(=NO1)C(C)C | C15H20ClN5O2
reactant | potassium carbonate | 9.03 mmol, 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-fluorophenol | 5.82 mmol, 1.11 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(4-Bromo-2-fluoro-phenoxy)-6-[1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yloxy]-5-methyl-pyrimidine | 1.05 g, 48% | BrC1=CC(=C(OC2=NC=NC(=C2C)OC2CCN(CC2)C2=NC(=NO2)C(C)C)C=C1)F | C21H23BrFN5O3
